US08334236B2
(4) Production of 2-(6-methoxy-3-pyridinylamino)nicotinaldehyde
6.48 g (28 mmol) of (2-(6-methoxy-3-pyridinyl)amino-3-pyridinyl)methanol was dissolved in chloroform (200 mL), and 7.3 g (84 mmol) of manganese dioxide was added thereto. The resulting mixture was stirred for 48 hours at 50° C. The reaction mixture was filtered, and the filtrate was concentrated. Thus, 6.5 g of the title compound was obtained as an orange-colored solid (yield: quantitative).

reactant | (2-(6-methoxy-3-pyridinyl)amino-3-pyridinyl)methanol | 28 mmol, 6.48 g | COC1=CC=C(C=N1)NC1=NC=CC=C1CO | C12H13N3O2
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 84 mmol, 7.3 g | [O-2].[O-2].[Mn+4]
product | 2-(6-methoxy-3-pyridinylamino)nicotinaldehyde | 6.5 g | COC1=CC=C(C=N1)NC1=C(C=O)C=CC=N1 | C12H11N3O2
